US06878721B1
Acetic acid (R)-1-(3-amino-4-benzyloxy-phenyl)-2-[benzyl-(2-methyl-indan-2-yl)-amino]-ethyl ester
The title compound is prepared from acetic acid (R)-2-[benzyl-(2-methyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethyl ester (2.90 g) by an analogous procedure to that used to prepare (R)-1-(3-amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanol in Example 19. The reaction is shown to be complete by TLC after 6 hours. The catalyst is filtered off and the solvent is removed in vacuo. The product is not purified further. TLC (silica, n-hexane/ethyl acetate 2:1 Rf=0.60).

reactant | acetic acid (R)-2-[benzyl-(2-methyl-indan-2-yl)-amino]-1-(4-benzyloxy-3-nitro-phenyl)-ethyl ester | 2.90 g | C(C1=CC=CC=C1)N(C[C@@H](C1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])OC(C)=O)C1(CC2=CC=CC=C2C1)C | C34H34N2O5
reactant | (R)-1-(3-amino-4-benzyloxy-phenyl)-2-[benzyl-(5,6-diethyl-indan-2-yl)-amino]-ethanol | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H](CN(C1CC2=CC(=C(C=C2C1)CC)CC)CC1=CC=CC=C1)O | C35H40N2O2
product | Acetic acid (R)-1-(3-amino-4-benzyloxy-phenyl)-2-[benzyl-(2-methyl-indan-2-yl)-amino]-ethyl ester | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H](CN(C1(CC2=CC=CC=C2C1)C)CC1=CC=CC=C1)OC(C)=O | C34H36N2O3
